US09024026B2
2,9-dimethyl-4,7-di-(p-hexylphenyl)-1,10-phenanthroline, Phen9
Starting with 4,7-dibromo-2,9-dimethyl-1,10-phenanthroline, Phen8, (M. Schmittel, H. Ammon Eur. J. Org. Chem. 1998, 785) and the p-hexylphenylboronic acid (commercially available), the ligand Phen9 is synthesized by a Suzuki-coupling.

reactant | 4,7-dibromo-2,9-dimethyl-1,10-phenanthroline | BrC1=CC(=NC2=C3N=C(C=C(C3=CC=C12)Br)C)C | C14H10Br2N2
reactant | p-hexylphenylboronic acid | C(CCCCC)C1=CC=C(C=C1)B(O)O | C12H19BO2
product | 2,9-dimethyl-4,7-di-(p-hexylphenyl)-1,10-phenanthroline | CC1=NC2=C3N=C(C=C(C3=CC=C2C(=C1)C1=CC=C(C=C1)CCCCCC)C1=CC=C(C=C1)CCCCCC)C | C38H44N2
